US04891372
Preparation of 7-methanesulphonamido-3-(4-methanesulphonamidophenethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
7-Methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine (0.21 g), 4-[2-(methanesulphonyloxy)ethyl]methanesulphonanilide (0.26 g) (see EP-A-0245997, Preparation 7) and triethylamine (0.12 ml) were heated at reflux temperature in ethanol for 24 hours. The solvent was removed in vacuo and the residue taken up in methylene chloride, washed with aqueous sodium bicarbonate, brine and then water. The organic layer was dried (Na2SO4), evaporated in vacuo and the residue purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 5%). The product-containing fractions were combined and evaporated to give a solid which was recrystallised to give the title compound, yield 0.05 g, m.p. 190°-193°.

reactant | 7-Methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.21 g | CS(=O)(=O)NC1=CC2=C(CCNCC2)C=C1 | C11H16N2O2S
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 7-methanesulphonamido-3-(4-methanesulphonamidophenethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCN(CC2)CCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C20H27N3O4S2
